US04419361
61.5 g (0.18 mol) of 3,3-bis-fluoromethyl-1-bromo-1-(4-chlorophenoxy)-butan-2-one were stirred with 27.2 g (0.4 mol) of imidazole in 500 ml of acetonitrile at 45° C. for 4 hours. The solvent was distilled off under a waterpump vacuum, the oil which remained was taken up in 500 ml of methylene chloride, the organic phase was washed twice with 1,000 ml of water and dried over sodium sulphate and the solvent was distilled off. The oil was taken up in acetone, 36 g (0.1 mol) of 1,5-naphthalenedisulphonic acid tetrahydrate were added and the precipitate formed was filtered off. The precipitate (the 1,5-naphthalenedisulphonate of the compound of Example 3) was treated with sodium bicarbonate solution. 14 g (24% of theory) of 3,3-bis-fluoromethyl-1-(4-chlorophenoxy)-1-(imidazol-1-yl)-butan-2-one were obtained as a viscous oil.

reactant | 3,3-bis-fluoromethyl-1-bromo-1-(4-chlorophenoxy)-butan-2-one | 0.18 mol, 61.5 g | FCC(C(C(OC1=CC=C(C=C1)Cl)Br)=O)(C)CF | C12H12BrClF2O2
reactant | imidazole | 0.4 mol, 27.2 g | N1C=NC=C1 | C3H4N2
reactant | 1,5-naphthalenedisulphonic acid tetrahydrate | 0.1 mol, 36 g | O.O.O.O.C1(=CC=CC=2C(=CC=CC12)S(=O)(=O)O)S(=O)(=O)O
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | 3,3-bis-fluoromethyl-1-(4-chlorophenoxy)-1-(imidazol-1-yl)-butan-2-one | 14 g, 24% | FCC(C(C(N1C=NC=C1)OC1=CC=C(C=C1)Cl)=O)(C)CF | C15H15ClF2N2O2
